US06995279B2
To one liter egg-plant type flask were added 55 g (0.27 mmol) of 1-bromonaphthalene and 300 ml of diethyl ether. The mixture was cooled to −70° C. on a dry ice/methanol bath, to which 170 ml (0.27 mmol) of a n-butyllithium/hexane solution (1.56 mol/l) was added dropwise. After addition was completed, the mixture was stirred for 6 hours while it was gradually brought to room temperature. The mixture was further cooled to −40° C. and to this were added dropwise 70 ml (0.30 mmol) of triisopropylborate and 100 ml of diethyl ether, and stirred overnight. To the reaction solution was added 200 ml of 2 N hydrochloric acid to cause hydrolysis. Diethyl ether (200 ml) was added to the reaction solution, which was washed with brine until it turned neutral. After drying over anhydrous sulfate, the solvent was distilled off under reduced pressure to give light yellow crystals of naphthyl boric acid.

reactant | 1-bromonaphthalene | 0.27 mmol, 55 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | n-butyllithium hexane | 0.27 mmol, 1.56 mol/l, 170 ml | C(CCC)[Li].CCCCCC
reactant | triisopropylborate | 0.30 mmol, 70 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 N, 200 ml | Cl | ClH
solvent | Diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | naphthyl boric acid | C1(=CC=CC2=CC=CC=C12)OB(O)O | C10H9BO3
